US06197770B1
Preparation of 2-{[3′,4′-Methylenedioxy-(1,1′-biphenyl)-4-yl]-sulfonyl}-amino-5-phenylpent-4-ynoic acid
Methyl 2-{[3′,4′-Methylenedioxy-(1,1′-biphenyl)-4-yl]-sulfonyl}-amino-5-phenylpent-4-ynoate: The starting sulfonamide 3a (804 mg, 1.72 mmol) and 4-methylenedioxyphenylboronic acid (430 mg, 2.59 mmol) are coupled to give the title compound as described for compound 3b. The crude product is adsorbed onto silica and eluted through flash silica with hexanes:EtOAc (2:1 to 1:3) to give a pale yellow solid.

reactant | Methyl 2-{[3′,4′-Methylenedioxy-(1,1′-biphenyl)-4-yl]-sulfonyl}-amino-5-phenylpent-4-ynoate | C1OC=2C=C(C=CC2O1)C1=CC=C(C=C1)S(=O)(=O)C(C(=O)OC)(CC#CC1=CC=CC=C1)N | C25H21NO6S
reactant | 4-methylenedioxyphenylboronic acid | 2.59 mmol, 430 mg | C1OC2=CC=C(C=C2O1)B(O)O | C7H7BO4
product | 2-{[3′,4′-Methylenedioxy-(1,1′-biphenyl)-4-yl]-sulfonyl}-amino-5-phenylpent-4-ynoic acid | C1OC=2C=C(C=CC2O1)C1=CC=C(C=C1)S(=O)(=O)C(C(=O)O)(CC#CC1=CC=CC=C1)N | C24H19NO6S
